US07741327B2
A solution of 3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester (0.69 g, 2.65 mmol) in dichloromethane (14 mL) was treated with N-bromosuccinimide (0.50 g, 2.80 mmol) and 2,2′-azobis(2,4-dimethylvaleronitrile) (31.6 mg, 0.12 mmol). The reaction was then warmed to 45° C. where it stirred overnight. At this time, the reaction was diluted with dichloromethane (50 mL) and was washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane, and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 1-10% ethyl acetate/hexanes) afforded impure 4-bromo-3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester (638.8 mg, 71%) as a yellow oil. The material was used without further purification.

reactant | 3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester | 2.65 mmol, 0.69 g | C(C)OC(C=C(C)OC1=CC=CC=2CCCCC12)=O | C16H20O3
reactant | N-bromosuccinimide | 2.80 mmol, 0.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 2,2′-azobis(2,4-dimethylvaleronitrile) | 0.12 mmol, 31.6 mg | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
product | 4-bromo-3-(5,6,7,8-tetrahydro-naphthalen-1-yloxy)-but-2-enoic acid ethyl ester | 638.8 mg, 71% | C(C)OC(C=C(CBr)OC1=CC=CC=2CCCCC12)=O | C16H19BrO3
